US06093732
7-Chloro-N-((4-chlorophenyl)methyl)-4-hydroxy-3-quinoline-carboxamide
7-Chloro-4-hydroxy-3-quinolinecarboxylic acid (500 mg) (Org. Syn. Coll. 3:272-275 (1955)) is dissolved in N,N-dimethylformamide (20 mL) and to the mixture is added 1,1'-carbonyl diimidazole (399 mg). The mixture is heated at 50° C. for 20 h and then allowed to cool to rt. The mixture is treated with water (200 mL) and then after 5 min, 4-chlorobenzylamine (300 mL) is added. The mixture is allowed to stir at rt for 2 days and then is poured into water (50 mL) and the resulting white precipitate is filtered. The crude product is recrystallized (acetic acid, water) to afford 481 mg of the title compound as a white solid.

reactant | 7-Chloro-4-hydroxy-3-quinolinecarboxylic acid | 500 mg | ClC1=CC=C2C(=C(C=NC2=C1)C(=O)O)O | C10H6ClNO3
reactant | 1,1'-carbonyl diimidazole | 399 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 200 mL | O | H2O
reactant | 4-chlorobenzylamine | 300 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 7-Chloro-N-((4-chlorophenyl)methyl)-4-hydroxy-3-quinoline-carboxamide | 481 mg | ClC1=CC=C2C(=C(C=NC2=C1)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H12Cl2N2O2
